US07273882B2
To 3-Chloro-4-aminobenzylamine (200 mg, 1.28 mmol) in methanol (5 mL) was added iodine monochloride (230 mg, 1.42 mmol). The mixture was stirred for 1 hour, then purified by HPLC to give 3-chloro-4-amino-5-iodobenzylamine (150 mg, 42%).

reactant | 3-Chloro-4-aminobenzylamine | 1.28 mmol, 200 mg | ClC=1C=C(CN)C=CC1N | C7H9ClN2
reactant | iodine monochloride | 1.42 mmol, 230 mg | ICl | ClI
solvent | methanol | 5 mL | CO | CH4O
product | 3-chloro-4-amino-5-iodobenzylamine | 150 mg, 42% | ClC=1C=C(CN)C=C(C1N)I | C7H8ClIN2
